US04681949
Tetraethylene glycol bis-methanesulfonate was prepared by the reaction of 1.94 parts (10.0 mmmol.) of tetraethylene glycol, 2.31 parts (20.2 mmol.) of methanesulfonyl chloride and 2.04 parts (20.2 mmol.) of triethylamine. There was then added 2.04 parts (20.0 mmol.) of dimethylaminopyridine and the mixture was heated at 100° C. for 2 hours. The product was the desired tetraethylene glycol bis-(4-dimethylaminopyridinium) bis-methanesulfonate.

reactant | tetraethylene glycol | C(COCCOCCOCCO)O | C8H18O5
reactant | methanesulfonyl chloride | 20.2 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 20.2 mmol | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 20.0 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tetraethylene glycol bis-(4-dimethylaminopyridinium) bis-methanesulfonate | CS(=O)(=O)[O-].CS(=O)(=O)[O-].CN(C1=CC=[NH+]C=C1)C.CN(C1=CC=[NH+]C=C1)C.C(COCCOCCOCCO)O
product | Tetraethylene glycol bis-methanesulfonate | CS(=O)(=O)OCCOCCOCCOCCOS(=O)(=O)C | C10H22O9S2
